US08703941B2
N,N-dimethyl-4-[thieno[2,3-b]pyridin-4-yloxy]cyclohexan-1-amine
Into a 50-mL round-bottom flask, was placed a solution of 4-(dimethylamino)cyclohexan-1-ol (127 mg, 0.89 mmol, 1.50 equiv) in N,N-dimethylformamide (15 mL). This was followed by the addition of sodium hydride (71 mg, 1.77 mmol, 3.00 equiv, 60%). The resulting solution was stirred for 30 minutes at 80° C. in an oil bath. 4-chlorothieno[2,3-b]pyridine (100 mg, 0.59 mmol, 1.00 equiv) was added to the mixture. The resulting solution was stirred for 3 h at 120° C. in an oil bath. The reaction was then quenched by the addition of 10 mL of ethanol. The resulting mixture was concentrated under vacuum. The residue was purified on a silica gel column with dichloromethane/methanol (10:1). The resulting product (50 mg) was further purified by Prep-HPLC with the following conditions: Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, CH3CN and water with 0.05% NH4HCO3 (3.0% water with 0.05% NH4HCO3 up to 3.0% in 1 min, up to 4.7.0% in 13 min, up to 100.0% in 2 min); Detector, uv 254/220 nm. This resulted in 9.6 mg (6%) of N,N-dimethyl-4-[thieno[2,3-b]pyridin-4-yloxy]cyclohexan-1-amine as a white solid. MS: (ES, m/z): 277.10 [M+H]+ 1 NMR (300 MHz, CD3OD, ppm): δ 1.49-1.69 (m, 4H), 2.06 (d, J=12.3 Hz, 2H), 2.34 (m, 9H), 4.60 (m, 1H), 7.01 (d, J=5.8 Hz, 1H), 7.38 (d, J=6.0 Hz, 1H), 7.52 (d, J=6.3 Hz, 1H), 8.36 (d, J=5.8 Hz, 1H).

reactant | 4-(dimethylamino)cyclohexan-1-ol | 0.89 mmol, 127 mg, 1.50 equiv | CN(C1CCC(CC1)O)C | C8H17NO
reactant | sodium hydride | 1.77 mmol, 71 mg, 3.00 equiv | [H-].[Na+]
reactant | 4-chlorothieno[2,3-b]pyridine | 0.59 mmol, 100 mg, 1.00 equiv | ClC1=C2C(=NC=C1)SC=C2 | C7H4ClNS
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | N,N-dimethyl-4-[thieno[2,3-b]pyridin-4-yloxy]cyclohexan-1-amine | CN(C1CCC(CC1)OC1=C2C(=NC=C1)SC=C2)C | C15H20N2OS
